US04333759
2-(2-Hydroxy-5-cyanophenyl)-2-methyl-1-propanol
5-Cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (2.0 g), prepared as in Example 10, was dissolved in methanol (10 ml) and added to sodium hydroxide (1.7 g) in water (25 ml) at 10°-15° C. with stirring. To this solution was added sodium borohydride (0.5 g), and the mixture was stirred at ambient temperature for 11/2 hours. After acidification with hydrochloric acid (6 ml) at 8°-12° C., the mixture was filtered and the product washed with water and dried yielding 1.8 g. Recrystallisation from toluene gave 1.2 g of product, mp 129°-130° C.

reactant | 5-Cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 2.0 g | C(#N)C=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H11NO2
reactant | sodium hydroxide | 1.7 g | [OH-].[Na+]
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 2-(2-Hydroxy-5-cyanophenyl)-2-methyl-1-propanol | 1.2 g | OC1=C(C=C(C=C1)C#N)C(CO)(C)C | C11H13NO2
